US07253286B2
4-[(7-Oxo-7,8-dihydro[1,8]naphthyridin-4-yl)oxy]aniline
4-(4-Nitrophenoxy)-7-oxo-7,8-dihydro[1,8]naphthyridine (156 mg), iron powder (300 mg), ammonium chloride (600 mg), dimethylformamide (2 ml), ethanol (1 ml) and water (1 ml) were stirred at 100° C. for 20 minutes. The mixture was filtered with celite, and then water and ethyl acetate were added for extraction. The organic layer was washed 4 times with aqueous ammonium chloride solution and then dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure to obtain 30 mg of the target substance as a light yellow solid.

reactant | 4-(4-Nitrophenoxy)-7-oxo-7,8-dihydro[1,8]naphthyridine | 156 mg | [N+](=O)([O-])C1=CC=C(OC2=CC=NC=3NC(C=CC23)=O)C=C1 | C14H9N3O4
reactant | ammonium chloride | 600 mg | [Cl-].[NH4+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | ethanol | 1 ml | C(C)O | C2H6O
catalyst | iron | 300 mg | [Fe] | Fe
solvent | water | 1 ml | O | H2O
product | 4-[(7-Oxo-7,8-dihydro[1,8]naphthyridin-4-yl)oxy]aniline | O=C1C=CC=2C(=CC=NC2N1)OC1=CC=C(N)C=C1 | C14H11N3O2
